US09227978B2
2-((4,5-dichloro-2-hydroxyphenyl)amino)-1-(5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)ethanone
To a stirred solution of 2-((4,5-dichloro-2-hydroxyphenyl)amino)acetic acid (90 mg, 0.385 mmol) in DMF (15 mL) at room temperature, 2-(vinylsulfonyl)octahydropyrrolo[3,4-c]pyrrole (110 mg, 0.46 mmol) was added followed by HOBt (78.05 mg, 0.58 mmol), EDCI.HCl (110.7 mg, 0.46 mmol) and Et3N (116.7 mg, 1.2 mmol). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was partitioned between ethyl acetate and brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (10-50% ethyl acetate/dichloroethane) to afford the desired product (20 mg, 10% yield) as a solid. 1H NMR (400 MHz, DMSO-d6)δ: 10.17 (s, 1H), 6.91 (dd, J=10.0, 16.4 Hz, 1H), 6.79 (s, 1H), 6.62 (s, 1H), 6.17-6.10 (m, 2H), 5.25 (t, J=4.0 Hz, 1H), 3.85-3.82 (m, 2H), 3.71-3.66 (m, 1H), 3.61-3.56 (m, 1H), 3.45-3.39 (m, 3H), 3.29-3.25 (m, 1H), 3.09-3.00 (m, 3H), 2.92-2.89 (m, 1H). ESI-MS m/z: 420.1 [M+H]+.

reactant | 2-((4,5-dichloro-2-hydroxyphenyl)amino)acetic acid | 0.385 mmol, 90 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)O | C8H7Cl2NO3
reactant | 2-(vinylsulfonyl)octahydropyrrolo[3,4-c]pyrrole | 0.46 mmol, 110 mg | C(=C)S(=O)(=O)N1CC2CNCC2C1 | C8H14N2O2S
reactant | HOBt | 0.58 mmol, 78.05 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.46 mmol, 110.7 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 1.2 mmol, 116.7 mg | CCN(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-((4,5-dichloro-2-hydroxyphenyl)amino)-1-(5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)ethanone | 20 mg, 10% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CC2CN(CC2C1)S(=O)(=O)C=C)O | C16H19Cl2N3O4S
